US08975252B2
10% Palladium-carbon (20 mg) was added to a solution of (2R)—N-{[3-chloro-1-(3-methoxypropyl)-1H-indol-6-yl]methyl}-N-cyclopropylmorpholin-2-carboxamide (67 mg) and diisopropylethylamine (43 mg) in ethanol (3 ml) and the mixture was stirred under hydrogen atmosphere at room temperature for 8 hours. Insoluble materials were filtered and the filtrate was concentrated in vacuo. The resulted residue was dissolved in ethyl acetate, washed with a saturated aqueous solution of sodium bicarbonate and saturated brine successively, dried over magnesium sulfate and concentrated in vacuo. The resulted residue was purified with NH-silica gel column chromatography (eluting solvent: ethyl acetate to ethyl acetate/methanol=10/1) to give (2R)—N-cyclopropyl-N-{[1-(3-methoxypropyl)-1H-indol-6-yl]methyl}morpholin-2-carboxamide (53 mg) as a colorless oil.

reactant | (2R)—N-{[3-chloro-1-(3-methoxypropyl)-1H-indol-6-yl]methyl}-N-cyclopropylmorpholin-2-carboxamide | 67 mg | ClC1=CN(C2=CC(=CC=C12)CN(C(=O)[C@H]1CNCCO1)C1CC1)CCCOC | C21H28ClN3O3
reactant | diisopropylethylamine | 43 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | Palladium-carbon | 20 mg | [C].[Pd]
product | (2R)—N-cyclopropyl-N-{[1-(3-methoxypropyl)-1H-indol-6-yl]methyl}morpholin-2-carboxamide | 53 mg | C1(CC1)N(C(=O)[C@H]1CNCCO1)CC1=CC=C2C=CN(C2=C1)CCCOC | C21H29N3O3
